US07521461B2
N-(2-Phenylethyl)heptan-1-amine (0.110 g, 0.500 mmol) was dissolved in DMF (10 ml), (4-{[2-(methoxycarbonyl)phenoxy]methyl}phenyl)acetic acid (0.150 g, 0.500 mmol) was added and the mixture was cooled to 0° C. N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate (0.176 g, 0.549 mmol) and N-ethyl-N,N-diisopropylamine (0.136 g, 1.049 mmol) were added. The solution was stirred overnight at room temperature. EtOAc (20 ml) was added and the organic phase was washed with two portions of Na2CO3 (2×20 ml, aq). The organic layer was dried (MgSO4) and the solvent was removed by evaporation. The crude was purified by preparative HPLC (started with isocratic acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product containing fractions were pooled and the acetonitrile was removed by evaporation EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4) and the solvent was removed by evaporation to give 0.229 g of methyl 2-[(4-{2-[heptyl(2-phenylethyl)amino]-2-oxoethyl}benzyl)oxy]benzoate (yield 91.4%).

reactant | N-(2-Phenylethyl)heptan-1-amine | 0.500 mmol, 0.110 g | C1(=CC=CC=C1)CCNCCCCCCC | C15H25N
reactant | (4-{[2-(methoxycarbonyl)phenoxy]methyl}phenyl)acetic acid | 0.500 mmol, 0.150 g | COC(=O)C1=C(OCC2=CC=C(C=C2)CC(=O)O)C=CC=C1 | C17H16O5
reactant | N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate | 0.549 mmol, 0.176 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-ethyl-N,N-diisopropylamine | 1.049 mmol, 0.136 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | methyl 2-[(4-{2-[heptyl(2-phenylethyl)amino]-2-oxoethyl}benzyl)oxy]benzoate | 0.229 g, yield 91.4% | C(CCCCCC)N(C(CC1=CC=C(COC2=C(C(=O)OC)C=CC=C2)C=C1)=O)CCC1=CC=CC=C1 | C32H39NO4
